US06458830B1
Isonipecotic acid (6.42 g) was dissolved in a 4:1 mixture of tetrahydrofuran:water (100 ml), potassium carbonate (10.3 g) and di-tert-butyl dicarbonate (11.4 g) were added and stirred at room temperature over night. The tetrahydrofuran was removed in vacuo and the residue dispersed between water (100 ml) and ethyl acetate (100 ml), the aqueous phase was extracted with ethyl acetate (3×75 ml). The combined organics were washed with brine and dried (MgSO4). The solution was filtered, evaporated to dryness to afford a white solid of N-butoxycarbonylpiperidine-4-carboxylic acid(11.6 g).

reactant | Isonipecotic acid | 6.42 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | water | 100 ml | O | H2O
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 11.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-butoxycarbonylpiperidine-4-carboxylic acid | 11.6 g | C(CCC)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
